US04661488
A solution of n-butyllithium (10.6 cm3 of a 1.55M solution in hexane) was added slowly to a stirred solution of prop-2-yl triphenyl phosphonium iodide (7.1 g) in dry tetrahydrofuran (20 cm3) at the ambient temperature under a nitrogen atmosphere and the resultant mixture stirred for a further 15 minutes after which a solution of ethyl trans 3-[2-(2-methylprop-2-yl)pyrimidin-5-yl]propenoate (3.2 g) in dry tetrahydrofuran (25 cm3) was added dropwise at -5° C. After stirring for a further period of 30 minutes during which time the mixture warmed to the ambient temperature it was kept at the ambient temperature for 16 hours. The mixture was partitioned between water (300 cm3) and diethyl ether (200 cm3) and the aqueous phase extracted with ether (2×200 cm3) and the extracts combined with the ethereal phase. After washing with water (2×100 cm3) and drying over anhydrous magnesium sulphate, the ether was removed by evaporation under reduced pressure to yield a residual oil which was subjected to dry column chromatography using a silica column eluted first with dichloromethane (to remove triphenyl phosphine) and then with a mixture of dichloromethane (100 parts by volume) and ethyl acetate (5 parts by volume) to yield ethyl trans-2,2-dimethyl-3-[2-(2-methylprop-2-yl)pyrimidin-5-yl]cyclopropane carboxylate (2.8 g), the identity of which was confirmed by infra red and n.m.r. spectroscopy.

reactant | n-butyllithium | C(CCC)[Li]
reactant | prop-2-yl triphenyl phosphonium iodide | 7.1 g | [I-].CC(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | ethyl trans 3-[2-(2-methylprop-2-yl)pyrimidin-5-yl]propenoate | 3.2 g | CC(C)(C)C1=NC=C(C=N1)/C=C/C(=O)OCC | C13H18N2O2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 cm3 | O1CCCC1 | C4H8O
product | ethyl trans-2,2-dimethyl-3-[2-(2-methylprop-2-yl)pyrimidin-5-yl]cyclopropane carboxylate | 2.8 g | CC1([C@H]([C@@H]1C=1C=NC(=NC1)C(C)(C)C)C(=O)OCC)C | C16H24N2O2
